US07960394B2
(3) Production of 2-(4-hydroxyphenyl)-3,8-dimethyl-4(3H)-quinazolinone:
2-(4-Methoxyphenyl)-3,8-dimethyl-4(3H)-quinazolinone (2.02 g, 7.20 mmol) was dissolved in dichloromethane (10 ml), stirred at −78° C., then boron trifluoride (1.0 M in CH2 Cl2, 21.6 ml) was added thereto, gradually heated up to room temperature, and stirred at that temperature for 12 hours. The reaction solution was diluted with ethyl acetate, and with cooling with ice, this was poured into aqueous 1 N sodium hydroxide solution, and extracted with ethyl acetate. The organic layer was washed with 1 N hydrochloric acid and saturated saline water, and dried with magnesium sulfate. The organic layer was concentrated under reduced pressure to obtain the intended compound (1.54 g, 80%) as a pale yellow solid.

reactant | 2-(4-Methoxyphenyl)-3,8-dimethyl-4(3H)-quinazolinone | 7.20 mmol, 2.02 g | COC1=CC=C(C=C1)C1=NC2=C(C=CC=C2C(N1C)=O)C | C17H16N2O2
reactant | boron trifluoride | 1.0 M, 21.6 ml | B(F)(F)F | BF3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-hydroxyphenyl)-3,8-dimethyl-4(3H)-quinazolinone | 1.54 g, 80% | OC1=CC=C(C=C1)C1=NC2=C(C=CC=C2C(N1C)=O)C | C16H14N2O2
